US07812022B2
Step F: 3-[2-(Methylsulfinyl)-4-pyrimidinyl]-2-(3-nitrophenyl)pyrazolo[1,5-a]pyridine
To a solution of 3-[2-(methylthio)-4-pyrimidinyl]-2-(3-nitrophenyl)pyrazolo[1,5-a]pyridine (0.82 g, 2.26 mmol) in DCM (22 mL) is added a solution of 50% mCPBA (818 mg, 2.37 mmol) in DCM (6 mL) through an addition funnel. The reaction is stirred for 10 min and saturated aqueous NaHCO3 and the layers are separated. The aqueous layer is extracted with DCM, and the combined organic layers are dried over MgSO4, filtered and concentrated. The residue is purified by silica gel chromatography (50% EtOAC/hexanes eluant) to provide the product (567 mg) as a yellow solid. 1H NMR (400 MHz, d6-DMSO) δ 8.93 (d, 1H, J=6.8), 8.68 (d, 1H, J=5.6), 8.57 (d, 1H, J=8.8), 8.44 (s, 1H, 8.37-8.35 (m, 1H, 8.08 (d, 1H, J=7.6), 7.78 (t, 1H, J=8.0), 7.61-7.65 (m, 1H), 7.21-7.26 (m, 2H), 2.84 (s, 3H).

reactant | 3-[2-(methylthio)-4-pyrimidinyl]-2-(3-nitrophenyl)pyrazolo[1,5-a]pyridine | 2.26 mmol, 0.82 g | CSC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C2=CC(=CC=C2)[N+](=O)[O-] | C18H13N5O2S
reactant | mCPBA | 2.37 mmol, 818 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | DCM | 22 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
product | 3-[2-(Methylsulfinyl)-4-pyrimidinyl]-2-(3-nitrophenyl)pyrazolo[1,5-a]pyridine | 567 mg | CS(=O)C1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C2=CC(=CC=C2)[N+](=O)[O-] | C18H13N5O3S
